US07101595B2
4-(4-Allyloxybutyloxy)benzoic acid 1.34 g and 2,7-dihydroxy-9-methylfluorene 0.46 g were dissolved in 30 ml of methylene chloride and cooled down to 5° C., and 0.01 g of dimethylaminopyridine and 1.15 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added thereto, followed by stirring the solution at a room temperature for 12 hours. Water 50 ml was added to separate the solution, and the organic layer was dried on anhydrous magnesium sulfate. A residue obtained after distilling the solvent off was refined by means of silica gel chromatography and recrystallized from a mixed solvent of ethanol and ethyl acetate to obtain 0.6 g of 2,7-di[4-(4-allyloxybutyloxy)benzoyloxy]-9-methylfluorene. Phase transition temperature: C 107 N 222 I

reactant | 4-(4-Allyloxybutyloxy)benzoic acid | 1.34 g | C(C=C)OCCCCOC1=CC=C(C(=O)O)C=C1 | C14H18O4
reactant | 2,7-dihydroxy-9-methylfluorene | 0.46 g | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)C | C14H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.15 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Water | 50 ml | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylaminopyridine | 0.01 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | 2,7-di[4-(4-allyloxybutyloxy)benzoyloxy]-9-methylfluorene | 0.6 g | C(C=C)OCCCCOC1=CC=C(C(=O)OC2=CC=3C(C4=CC(=CC=C4C3C=C2)OC(C2=CC=C(C=C2)OCCCCOCC=C)=O)C)C=C1 | C42H44O8
